US09169259B2
A mixture of tert-butyl 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxamido)benzoate (150 mg, 0.26 mmol) and TFA (2 mL) in dichloromethane (2 mL) was stirred at room temperature for 2 h. The residue was concentrated in vacuo. The crude product was purified by prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 20% acetonitrile/80% water (0.1% TFA, v/v) initially, proceeding to 40% acetonitrile/60% water (0.1% TFA, v/v) in a linear fashion over 9 min) to give 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxamido)benzoic acid (5 mg, 4%) as yellow solid. 1H NMR (300 MHz, DMSO): δ 10.36 (s, 1H), 10.25 (s, 1H), 8.14 (brs, 2H), 7.90-7.74 (m, 5H), 7.44 (s, 1H), 6.97 (s, 1H), 4.25-4.15 (m, 4 h), 3.91 (s, 3H), 3.77 (s, 3H), 2.67 (brs, 2H), 2.04-1.57 (m, 3H). LC-MS: [M+H]+, 517.9, tR=1.366 min, HPLC: 95.06% at 214 nm, 95.20% at 254 nm, tR=4.927 min.

reactant | tert-butyl 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxamido)benzoate | 0.26 mmol, 150 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CCC1)C(=O)NC1=CC=C(C(=O)OC(C)(C)C)C=C1)C=CN2 | C30H35N7O5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(1-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)piperidine-3-carboxamido)benzoic acid | 5 mg, 4% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)N1CC(CCC1)C(=O)NC1=CC=C(C(=O)O)C=C1)C=CN2 | C26H27N7O5
